US08030317B2
5-(4-Amino-2-fluorophenylamino)-8-methylpyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione (compound 5E):
3-Benzyl-5-(2-fluoro-4-nitrophenylamino)-8-methylpyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione (900 mg, 2.1 mmol), palladium hydroxide (20% on carbon, 500 mg) and ammonium formate (500 mg, 7.93 mmol, 3.7 eq) were stirred in dioxane (10 mL) at 90° C. for 4 hours. The suspension was filtered and the solid refluxed in DMF (20 mL) for 1 hour then filtered. This was repeated 3 times. The filtrates were combined and evaporated to give 420 mg of title compound as a white solid (65%). 1H NMR (400 MHz, MeOD) δ ppm 3.56 (br. s., 3H) 5.38 (s, 1H) 6.51 (s, 1H) 6.54 (t, J=1.89 Hz, 1H) 7.07 (t, J=8.46 Hz, 1H) 8.17 (s, 1H) [M+H] calc'd for C14H12FN5O2, 302; found, 302.

reactant | 3-Benzyl-5-(2-fluoro-4-nitrophenylamino)-8-methylpyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione | 2.1 mmol, 900 mg | C(C1=CC=CC=C1)N1C=NC2=C(C1=O)C(=CC(N2C)=O)NC2=C(C=C(C=C2)[N+](=O)[O-])F | C21H16FN5O4
reactant | ammonium formate | 7.93 mmol, 500 mg, 3.7 eq | C(=O)[O-].[NH4+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | palladium hydroxide | 500 mg | [OH-].[Pd+2].[OH-]
product | 5-(4-Amino-2-fluorophenylamino)-8-methylpyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione | 420 mg, 65% | NC1=CC(=C(C=C1)NC1=CC(N(C=2N=CNC(C21)=O)C)=O)F | C14H12FN5O2
